US09445594B2
Preparation of 1-([1,1′-biphenyl]-2-yl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)urea (F70)
A solution of 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acetyl azide (0.100 g, 0.258 mmol) in acetonitrile (1.25 mL) was heated to 80° C. for 2.5 hours. The resulting solution was cooled to room temperature and [1,1′-biphenyl]-2-amine (0.0479 g, 0.283 mmol) and cesium carbonate (0.0920 g, 0.283 mmol) were added as solids. An additional amount of acetonitrile (1.0 mL) was added and the reaction was allowed to stir for 18 hours at room temperature. The reaction mixture was poured into water (20 mL) and extracted with ethyl acetate (3×25 mL). The combined organic layers were dried over magnesium sulfate, filtered, and concentrated. The resulting residue was purified by flash chromatography using 0-80% ethyl acetate/B, where B=1:1 dichloromethane/hexanes to afford the title compound as a white solid (0.039 g, 28%): 1H NMR (400 MHz, DMSO-d6) δ 9.40 (s, 1H), 8.12-8.04 (m, 4H), 7.90 (dd, J=8.2, 1.2 Hz, 1H), 7.63 (dq, J=9.0, 0.9 Hz, 2H), 7.55-7.46 (m, 3H), 7.45-7.36 (m, 5H), 7.33-7.26 (m, 1H), 7.18 (dd, J=7.6, 1.7 Hz, 1H), 7.14-7.06 (m, 2H), 4.32 (d, J=5.8 Hz, 2H); 19F NMR (376 MHz, DMSO-d6) δ −56.96; ESIMS m/z 530 ([M+H]+).

reactant | 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acetyl azide | 0.258 mmol, 0.100 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CC(=O)N=[N+]=[N-])(F)F | C17H11F3N6O2
reactant | [1,1′-biphenyl]-2-amine | 0.283 mmol, 0.0479 g | C=1(C(=CC=CC1)N)C1=CC=CC=C1 | C12H11N
reactant | cesium carbonate | 0.283 mmol, 0.0920 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 20 mL | O | H2O
reactant | acetonitrile | 1.25 mL | C(C)#N | C2H3N
reactant | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | 1-([1,1′-biphenyl]-2-yl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)urea | 0.039 g, 28% | C1(=C(C=CC=C1)NC(=O)NCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C1=CC=CC=C1 | C29H22F3N5O2
